US06177440B1
40% Methanolic Triton B (0.13 mL, 0.28 mM) was added to a solution of the 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (80 mg, 0.23 mM) in 8 mL DMF at room temperature. After 3 minutes, methyl bromoacetate (43 mg, 0.28 mM) was added and the resultant mixture stirred at room temperature for 17 hours. The mixture was diluted with ethyl acetate, washed with H2O, and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 70 mg (72%) of the {9-[(3,5-dimethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester as a white solid. 1H NMR (DMSO-d6) δ 7.6 (d, 1H, J=8 Hz), 7.55 (br s, 1H), 7.45-7.3 (m, 2H), 7.25 (d, 1H, J=8 Hz), 7.2 (br s, 1H), 7.1 (d, 1H, J=8 Hz), 6.9 (s, 1H), 6.8 (s, 2H), 6.6 (d, 1H, J=8 Hz), 5.65 (s, 2H), 4.9 (s, 2H), 3.75 (s, 3H), and 2.2 (s, 6H). IR (KBr, cm−1) 3362, 3173, 1758, 1638, 1583, 1500, 1454, 1434, 1330, 1215, 1151, 1106, 772, 715, and 706. MS (FD) m/e 417.

reactant | 9-[(3,5-dimethylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.23 mM, 80 mg | CC=1C=C(C=C(C1)C)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C22H20N2O2
reactant | methyl bromoacetate | 0.28 mM, 43 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(3,5-dimethylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 70 mg, 72% | CC=1C=C(C=C(C1)C)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C25H24N2O4
